Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Positive blood cultures
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman, with no significant past 
medical history, who presents today for evaluation after 
discharge from the ___ with possible septic joint and/or 
cellulitis, now found to have positive blood cultures.  
 
Patient was sent in from ___ office to ___ on ___ with concern 
for R hand cellulitis with concern for septic joint. Evaluation 
at that time showed 2 lesions in the right arm, without red 
streaking. She was treated with vanco x1 and Benadryl (for 
itching) and improved in ___. She was sent home on Keflex, but 
was called to return in the setting of positive blood cultures 
for Viridian Streptococci. She presented to the ER on ___ for 
further evaluation including endocarditis workup, as she was 
reporting night sweats, but then left AMA due to concerns over 
childcare for her children.  

She subsequently got 1 dose of IM ceftriaxone at the ___ office 
on ___. She now presents for admission and workup for 
endocarditis. At this time she denies fever, chest pain. 
Endorses new night sweats and chronic shortness of breath with 
ambulating for > ___ years. No headache, vision changes, dysuria, 
vaginal discharge. Exam reveals new murmur. Of note, she has a 
history of multiple recent dental procedures, most recent being 
cavity filling ___ months prior.

In the ___, initial vitals were: 98.2 89 113/95 16 100%  
Labs notable for WBC 7.5, Hgb 10.8, Hct 34.8, Platelet 240. PMN 
48%,L41%  

On the floor, patient endorses above history, but also adds that 
in the last 3 days she has had no more fevers and her rash over 
her wrist, elbow and lateral arm have improved. She reports that 
she never had any impairments to AROM or PROM over her joints in 
RUE. She also reports catching a bedbug in her house, and feels 
as though the area of redness that started over her wrist and 
elbow started out as a bug bite. She also reports her mother was 
recently diagnosed with a heart valve issue two weeks prior.  
 
Past Medical History:
1. Herpes Simplex
2. History of R hand cellulitis ___
 
Social History:
___
Family History:
Non-contributory.  
 
Physical Exam:
=====================================================
ADMISSION PHYSICAL EXAM

Vital Signs: 98.8 PO 128 / 70 84 16 100 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, teeth with poor dentition, old 
caries, no ulcerations, braces in place  
CV: Regular rate and rhythm, systolic ___ murmur over left 
sternal border, non radiating, with apex of murmur closer to S1  

Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, blanching non indurated, erythematous rash on lateral 
right arm, improving (3 cm), minor area of erythema over doral 
aspect of proximal right hand. Full AROM and PROM at shoulder, 
elbow and wrist  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.
=====================================================

DISCHARGE PHYSICAL EXAM

Vital Signs: Tm 97.5, HR 89, BP 127/57, RR 16, SaO2 99% RA
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, o/p clear
CV: RRR, systolic ___ murmur at USB, non radiating, with apex of 
murmur closer to S1  
Lungs: Clear to auscultation bilaterally
Abdomen: Soft, non-tender, non-distended, NABS, no organomegaly, 
no rebound or guarding   
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, resolved swelling of R forearm, two punctate lesions on 
dorsum of right arm, no rash. Full ROM of wrist, elbow, and 
shoulder. No other skin lesions found. 
Neuro: CNII-XII intact, moving all extremities normally.
 
Pertinent Results:
ADMISSION LABS:
=====================================================
___ 06:23PM BLOOD WBC-7.5 RBC-4.21 Hgb-10.8* Hct-34.8 
MCV-83 MCH-25.7* MCHC-31.0* RDW-15.2 RDWSD-45.1 Plt ___
___ 06:23PM BLOOD Neuts-48.5 ___ Monos-7.7 Eos-2.4 
Baso-0.3 Im ___ AbsNeut-3.65 AbsLymp-3.09 AbsMono-0.58 
AbsEos-0.18 AbsBaso-0.02
___ 05:30AM BLOOD ___ PTT-27.1 ___
___ 06:23PM BLOOD Glucose-81 UreaN-12 Creat-0.6 Na-137 
K-4.2 Cl-105 HCO3-21* AnGap-15
___ 05:30AM BLOOD ALT-26 AST-21 LD(LDH)-150 AlkPhos-54 
TotBili-0.3
___ 05:30AM BLOOD Albumin-3.9 Calcium-8.5 Phos-3.7 Mg-2.1
___ 06:23PM BLOOD CRP-9.1*
___ BLOOD Lyme IgG, IgM negative
___ BLOOD Anaplasma IgG & IgM pending at time of discharge

DISCHARGE LABS:
=====================================================
___ 05:40AM BLOOD WBC-7.2 RBC-4.60 Hgb-11.7 Hct-37.7 MCV-82 
MCH-25.4* MCHC-31.0* RDW-15.3 RDWSD-45.1 Plt ___
___ 04:55AM BLOOD Glucose-84 UreaN-12 Creat-0.7 Na-139 
K-4.3 Cl-105 HCO3-23 AnGap-15
___ 04:55AM BLOOD Calcium-8.9 Phos-3.6 Mg-2.1

MICROBIOLOGY:
=====================================================
___ blood cultures: ___ bottles growing Strep viridans
Blood cultures from ___, and 
___ showed no growth to date (final results pending).

IMAGING: 
=====================================================
R wrist & elbow XR (___): Slight soft tissue swelling 
proximal right forearm.  Otherwise normal appearance 
radiographically.

R shoulder XR (___): Normal

Panorex (___): Read pending at time of discharge

TTE (___): The left atrium is normal in size. No atrial 
septal defect is seen by 2D or color Doppler. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF = 60%). Tissue Doppler imaging 
suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no pericardial effusion. 

___ EKG: normal sinus rhythm, rate 79
 
Brief Hospital Course:
Ms ___ is a ___ woman with no significant past medical 
history who presented initially for R arm cellulitis ___, 
admitted for workup for infective endocarditis with ___ blood 
cultures growing S. viridans and new heart murmur.

# Strep viridans bacteremia: The patient initially presented to 
the ___ with R arm cellulitis on ___, was treated with Keflex 
and discharged, and was then called to return when one blood 
culture bottle from ___ grew Strep viridans. She was noted 
to have a new systolic murmur. She was started on ceftriaxone 
and daily surveillance blood cultures remained negative. She 
remained afebrile. A TTE was normal with no valvular 
abnormalities or evidence of endocarditis. She was seen by the 
Infectious Disease service, who felt that in light of the 
patient's clinical stability and negative subsequent blood 
cultures, the initial positive blood culture may have reflected 
contamination from the patient's skin rather than a true 
bloodstream infection. Antibiotics were discontinued with a plan 
for outpatient followup and repeat blood cultures 1 week after 
discharge.

TRANSITIONAL ISSUES:
=====================
-To PCP: ___ send blood cultures in one week per ID.
-Follow-up pending blood cultures.
-No ID follow-up needed.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. norgestrel-ethinyl estradiol 0.3-30 mg-mcg oral DAILY 
2. triamcinolone acetonide 0.5 % topical BID 

 
Discharge Medications:
1.  norgestrel-ethinyl estradiol 0.3-30 mg-mcg oral DAILY  
2.  triamcinolone acetonide 0.5 % topical BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
===================
Positive blood culture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your hospitalization. 
You were called back to the hospital because one of your blood 
culture bottles from your Emergency Department visit was growing 
a bacteria. We placed you on IV antibiotics for this potential 
infection, though subsequent blood cultures remained negative. A 
heart ultrasound was normal and showed no infection of your 
heart valves. The Infectious Disease thinks that the positive 
blood culture was not a true infection.

It is very important that you keep your follow-up appointment 
with your primary care physician. She will recheck blood 
cultures at that visit.

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___